US04092311
Ethyl 3-(5-methyl-6-phenyl-3-pyridazinyl)carbazate
A 4.0 g. portion of ethyl 3-[6-(p-bromophenyl)-5-methyl-3-pyridazinyl]carbazate and 0.9 g. of 10% palladium on carbon catalyst in 100 ml. of ethanol and 50 ml. of ammonium hydroxide is shaken under 40 lb. of hydrogen pressure for 4 hours with external heating of the bottle by means of a heated jacket. The reaction mixture is suction filtered and the filtrate is concentrated to a light yellow oil which is scratched with petroleum ether to give a white solid, m.p. 142°-145° C.

reactant | ethyl 3-[6-(p-bromophenyl)-5-methyl-3-pyridazinyl]carbazate | BrC1=CC=C(C=C1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C14H15BrN4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-(5-methyl-6-phenyl-3-pyridazinyl)carbazate | CC=1C=C(N=NC1C1=CC=CC=C1)NNC(=O)OCC | C14H16N4O2
